US04101545
2β-N-methyl-piperazino-16β-piperidino-3α,17β-dihydroxy-5α-androstane
The compound was prepared according to Example 5 from 2β-chloro-3α-,17β-dihydroxy-16β-piperidino-5α-androstane and from N-methyl-piperazine.

reactant | 2β-chloro-3α-,17β-dihydroxy-16β-piperidino-5α-androstane | Cl[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCCCC1)O | C24H40ClNO2
reactant | N-methyl-piperazine | CN1CCNCC1 | C5H12N2
product | 2β-N-methyl-piperazino-16β-piperidino-3α,17β-dihydroxy-5α-androstane | CN1CCN(CC1)[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4C[C@@H]([C@@H]([C@@]4(C)CC[C@@H]3[C@]2(C1)C)O)N1CCCCC1)O | C29H51N3O2
